US08471005B2
2-Methanesulfinyl-7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazine (150.0 mg, 0.0005220 mol), N,N-Diisopropylethylamine (0.136 mL, 0.000783 mol) and 2-[4-(3-Amino-phenyl)-piperazin-1-yl]-ethanol (231.0 mg, 0.001044 mol) were dissolved in 2-Methoxyethanol (3.66 mL) and the The reaction was microwaved on 300 watts, 180° C. for 40 minutes or until HPLC showed consumption of starting material. The reaction mixture was then reduced en vacuo and the product was isolated and purified by Gilson prep HPLC to provide 55.38 mg of 2-(4-{3-[7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-piperazin-1-yl)-ethanol as a lyophilated powder. (M+H)=445.21. 1H NMR (400 MHz, DMSO, d6) δ 9.16 (s, 1H), 8.94 (s, 1H), 7.72 (d, 1H, J=5.85 Hz), 7.44 (t, 1H, J=7.64 Hz), 7.26 (s, 1H), 7.19 (d, 1H, J=7.68 Hz), 7.08 (m, 2H), 7.01 (t, 1H, J=7.80 Hz), 6.90 (q, 2H, J=4.61 Hz), 6.46 (d, 1H, J=6.89 Hz), 3.76 (s, 3H), 3.53 (m, 4H), 3.04 (m, 2H), 2.87 (m, 2H), 2.67 (m, 2H), 2.44 (m, 2H).

reactant | 2-Methanesulfinyl-7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazine | 0.0005220 mol, 150.0 mg | CS(=O)C1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)OC | C14H13N3O2S
reactant | N,N-Diisopropylethylamine | 0.000783 mol, 0.136 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-[4-(3-Amino-phenyl)-piperazin-1-yl]-ethanol | 0.001044 mol, 231.0 mg | NC=1C=C(C=CC1)N1CCN(CC1)CCO | C12H19N3O
solvent | 2-Methoxyethanol | 3.66 mL | COCCO | C3H8O2
product | 2-(4-{3-[7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-piperazin-1-yl)-ethanol | 55.38 mg | COC1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)NC=2C=C(C=CC2)N2CCN(CC2)CCO | C25H28N6O2
